US06251907B1
N-[2-[4-(1-Ethoxycarbonyl-6-fluoro-1H-indazol-3-yl)-1-piperazinyl]ethyl]phthalimide maleate
A mixture of N-[2-[4-(6-fluoro-1H-indazol-3-yl)-1-piperazinyl]ethyl]phthalimide (1.8 g, 4.6 mmol) and ethyl chloroformate (5.7 g, 52.3 mmol) was heated on a stream bath for 10 minutes. The reaction was cooled and an additional 2.3 g (20.9 mmol) ethyl chloroformate was added. The reaction was returned to the steam bath for 10 minutes longer and then cooled. The resultant solid was triturated with anhydrous Et2O and collected to yield 2.0 g. The solid was suspended in H2O (100 ml) and NaHCO3 was added to make the pH=8. The aqueous mixture was extracted with CH2Cl2 and the CH2Cl2 extract was washed with H2O, dried with Na2SO4 and concentrated to afford 2.0 g of a yellow oil that crystallized readily. The product was flashed over 80 g silica gel using 2% Et2NH-EtOAc as eluent to afford 1.10 g (2.36 mmol) of an off-white solid. The compound was dissolved in hot absolute ethanol (55 ml) and maleic add (0.28 g, 2.36 mmol) was added. The solution was refluxed gently for 10 minutes and then cooled. Most of the ethanol was removed in vacuo and the resultant white suspension was diluted with anhydrous Et2O (50 ml). The solid that was produced was collected to yield 1.35 g. Recrystallization from CH3CN gave 1.15 g of the maleate salt as a white powder, m.p. 214-216° C.

reactant | N-[2-[4-(6-fluoro-1H-indazol-3-yl)-1-piperazinyl]ethyl]phthalimide | 4.6 mmol, 1.8 g | FC1=CC=C2C(=NNC2=C1)N1CCN(CC1)CCN1C(C=2C(C1=O)=CC=CC2)=O | C21H20FN5O2
reactant | ethyl chloroformate | 52.3 mmol, 5.7 g | ClC(=O)OCC | C3H5ClO2
reactant | ethyl chloroformate | 20.9 mmol, 2.3 g | ClC(=O)OCC | C3H5ClO2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | H2O | 100 ml | O | H2O
product | N-[2-[4-(1-Ethoxycarbonyl-6-fluoro-1H-indazol-3-yl)-1-piperazinyl]ethyl]phthalimide maleate | 2.0 g | C(\C=C/C(=O)O)(=O)O.C(C)OC(=O)N1N=C(C2=CC=C(C=C12)F)N1CCN(CC1)CCN1C(C=2C(C1=O)=CC=CC2)=O | InChI=1S/C24H24FN5O4.C4H4O4/c1-2-34-24(33)30-20-15-16(25)7-8-19(20)21(26-30)28-12-9-27(10-13-28)11-14-29-22(31)17-5-3-4-6-18(17)23(29)32;5-3(6)1-2-4(7)8/h3-8,15H,2,9-14H2,1H3;1-2H,(H,5,6)(H,7,8)/b;2-1-
